US05233056
In an atmosphere of an argon stream, 1.1 g (0.045 mol) of magnesium, one drop of methyl iodide, and a catalytic amount of iodine were added to 30 ml of tetrahydrofuran, and further, a solution of 10.4 g (0.04 mol) of 2,5-dimethoxy-3,4,6-trimethyl-bromobenzene in 15 ml of tetrahydrofuran was added dropwise over 40 minutes while refluxing the tetrahydrofuran. The reaction was completed by refluxing for further 30 minutes, to thereby form 2,5-dimethoxy-3,4,6-trimethybenzene magnesium bromide. Then, after cooling to 0° C., 580 mg (4.4 mmol) of the lactol compound (2) prepared in Example 1 was added and stirred at a room temperature for 2 hours, an aqueous sodium bicarbonate saturated solution was added to the reaction mixture, and an extraction with diethyl ether was carried out. The organic phase was washed with an aqueous sodium chloride saturated solution, and dried over anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure, and the residue was treated by silica gel column chromatography. Then, 1.35 g (98.5%) of the above-mentioned compound (3) was obtained from the ethyl acetate effluent as a colorless oil.

reactant | magnesium | 0.045 mol, 1.1 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2,5-dimethoxy-3,4,6-trimethyl-bromobenzene | 0.04 mol, 10.4 g | COC1=C(C(=C(C(=C1C)C)OC)C)Br | C11H15BrO2
catalyst | methyl iodide | one drop | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,5-dimethoxy-3,4,6-trimethybenzene magnesium bromide | [Br-].[Mg+2].COC1=CC(=C(C(=C1C)C)OC)C.[Br-] | InChI=1S/C11H16O2.2BrH.Mg/c1-7-6-10(12-4)8(2)9(3)11(7)13-5;;;/h6H,1-5H3;2*1H;/q;;;+2/p-2
